US05969139
Reaction of 3-amino-5,5-dimethyl-2-cyclohexen-1-one with 4-chloro-3-phenylsulphonylbenzaldehyde dimethyl acetal in an analogous manner to that described in Example 1 gave 9-[3-benzenesulphonyl-4-chlorophenyl]-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione. Crystallization from dimethylformamide/water gave a yellow crystalline solid of melting point 252-254° C. (decomposition).

reactant | 3-amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 4-chloro-3-phenylsulphonylbenzaldehyde dimethyl acetal | COC(C1=CC(=C(C=C1)Cl)S(=O)(=O)C1=CC=CC=C1)OC | C15H15ClO4S
product | 9-[3-benzenesulphonyl-4-chlorophenyl]-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione | C1(=CC=CC=C1)S(=O)(=O)C=1C=C(C=CC1Cl)C1C=2C(CC(CC2NC=2CC(CC(C12)=O)(C)C)(C)C)=O | C29H30ClNO4S
